US07994163B2
2-Mercapto-5-(3-methyl-butyryl)-pyridine:
Combine 2-hydroxy-5-(3-methyl-butyryl)-pyridine (742 mg, 4.1 mmol) and phosphorus pentasulfide (1.88 g, 4.2 mmol) in pyridine (5 mL). Heat the mixture at 120° C. for 5 h under a nitrogen atmosphere. Cool the mixture to room temperature and partition between water and EtOAc. Collect the aqueous layer, wash with additional EtOAc and DCM. Acidify the aqueous layer with 1M aqueous HCl and extract with DCM (4×30 mL). Dry the combined organic extracts over MgSO4, filter and concentrate in vacuo to obtain the title compound (120 mg, 15%). MS (ES+) m/z: 196.2 (M+H)+.

reactant | 2-hydroxy-5-(3-methyl-butyryl)-pyridine | 4.1 mmol, 742 mg | OC1=NC=C(C=C1)C(CC(C)C)=O | C10H13NO2
reactant | phosphorus pentasulfide | 4.2 mmol, 1.88 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-Mercapto-5-(3-methyl-butyryl)-pyridine | 120 mg, 15% | SC1=NC=C(C=C1)C(CC(C)C)=O | C10H13NOS
